US08476457B2
To a solution of 3-iodo-4-methyl-5-nitro-benzoic acid methyl ester (2.0 g, 6.23 mmol) in a mixture of THF (40 mL) and methanol (1 mL) was added SnCl2 dihydrate (4.22 g, 18.69 mmol). The reaction mixture was stirred at 60° C. for six hours, then cooled to room temperature and partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The organic layer was separated, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was purified by column chromatography to afford 1.22 g (67%) of 3-amino-5-iodo-4-methyl-benzoic acid methyl ester.

reactant | 3-iodo-4-methyl-5-nitro-benzoic acid methyl ester | 6.23 mmol, 2.0 g | COC(C1=CC(=C(C(=C1)[N+](=O)[O-])C)I)=O | C9H8INO4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
product | 3-amino-5-iodo-4-methyl-benzoic acid methyl ester | 1.22 g, 67% | COC(C1=CC(=C(C(=C1)I)C)N)=O | C9H10INO2
